US07338959B2
3-{4-[(2-Benzylamino-1-ethyl-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-benzenesulfonamide hydrochloride
The title compound was prepared following the procedure of example one with N2-Benzyl-N5-(2-chloro-pyrimidin-4-yl)-1-ethyl-N5-methyl-1H-benzoimidazole-2,5-diamine (98 mg, 0.25 mmol) and 3-amino-benzenesulfonamide (43 mg, 0.25 mmol) as a white solid (34 mg, 24%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 9.61 (s, 1H), 8.56 (s, 1H), 7.75-7.84 (m, 2H), 7.23-7.45 (m, 11H), 7.04 (d, J=7.2 Hz, 1H), 5.71 (d, J=5.7 Hz, 1H), 4.68 (d, J=5.1 Hz, 2H), 4.21 (m, 2H), 3.46 (s, 3H), 1.28 (m, 3H). MS (ESI) m/z=529 [M+H]+.

reactant | N2-Benzyl-N5-(2-chloro-pyrimidin-4-yl)-1-ethyl-N5-methyl-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 98 mg | C(C1=CC=CC=C1)NC1=NC2=C(N1CC)C=CC(=C2)N(C)C2=NC(=NC=C2)Cl | C21H21ClN6
reactant | 3-amino-benzenesulfonamide | 0.25 mmol, 43 mg | NC=1C=C(C=CC1)S(=O)(=O)N | C6H8N2O2S
product | 3-{4-[(2-Benzylamino-1-ethyl-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-benzenesulfonamide hydrochloride | Cl.C(C1=CC=CC=C1)NC1=NC2=C(N1CC)C=CC(=C2)N(C2=NC(=NC=C2)NC=2C=C(C=CC2)S(=O)(=O)N)C | InChI=1S/C27H28N8O2S.ClH/c1-3-35-24-13-12-21(17-23(24)32-27(35)30-18-19-8-5-4-6-9-19)34(2)25-14-15-29-26(33-25)31-20-10-7-11-22(16-20)38(28,36)37;/h4-17H,3,18H2,1-2H3,(H,30,32)(H2,28,36,37)(H,29,31,33);1H
